US07087750B2
1-[(2,5-Dichloro-3-thienyl)sulfonyl]-4-(1-piperazinyl)-1H-indole Hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 2,5-dichloro-3-thienylsulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.24 (br, 1 H), 7.78 (d, J=5 Hz, 1 H), 7.72 (s, 1 H), 7.57 (d, J=8 Hz, 1 H), 7.29 (t, J=8 Hz, 1 H), 7.01 (d, J=5 Hz, 1 H), 6.86 (d, J=8 Hz, 1 H), 3.31 (m, 8 H). MS (ESI+) for m/z 416 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 2,5-dichloro-3-thienylsulfonyl chloride | ClC=1SC(=CC1S(=O)(=O)Cl)Cl | C4HCl3O2S2
product | 1-[(2,5-Dichloro-3-thienyl)sulfonyl]-4-(1-piperazinyl)-1H-indole Hydrochloride | Cl.ClC=1SC(=CC1S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1)Cl | InChI=1S/C16H15Cl2N3O2S2.ClH/c17-15-10-14(16(18)24-15)25(22,23)21-7-4-11-12(2-1-3-13(11)21)20-8-5-19-6-9-20;/h1-4,7,10,19H,5-6,8-9H2;1H
